US07399867B2
{4-[2-(4-Methanesulfonyl-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenyl}-(2-piperidin-1-yl-ethyl)-carbamic acid tert-butyl ester
Heat a solution of {4-[2-(4-methanesulfonyl-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenyl}-carbamic acid tert-butyl ester (200 mg, 0.38 mmol), 2-chloroethyl-1-piperidine hydrochloride (100 mg, 0.57 mmol) and 60% sodium hydride (38 mg, 0.94 mmol) in N,N-dimethylformamide to 60° C. and stir for 18 hours. Add potassium tert-butoxide (760 mg, 0.67 mmol) and 2-chloroethyl-1-piperidine hydrochloride (46 mg, 0.25 mmol) and stir for an additional 2 hours, then cool to ambient temperature. Dilute the reaction with dichloromethane, wash with saturated sodium bicarbonate, dry with magnesium sulfate and chromatograph on silica gel with dichloromethane/methanol mixtures to give 120 mg of the title compound (50%). Mass spectrum (ion spray): m/z=631.3 (M+H).

reactant | {4-[2-(4-methanesulfonyl-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenyl}-carbamic acid tert-butyl ester | 0.38 mmol, 200 mg | C(C)(C)(C)OC(NC1=CC=C(C=C1)OC1=C(C=CC2=CC(=CC=C12)OC)C1=CC=C(C=C1)S(=O)(=O)C)=O | C29H29NO6S
reactant | sodium hydride | 0.94 mmol, 38 mg | [H-].[Na+]
reactant | potassium tert-butoxide | 0.67 mmol, 760 mg | CC(C)([O-])C.[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | {4-[2-(4-Methanesulfonyl-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenyl}-(2-piperidin-1-yl-ethyl)-carbamic acid tert-butyl ester | 120 mg, 50% | C(C)(C)(C)OC(N(CCN1CCCCC1)C1=CC=C(C=C1)OC1=C(C=CC2=CC(=CC=C12)OC)C1=CC=C(C=C1)S(=O)(=O)C)=O | C36H42N2O6S
